US07429597B2
6-chloro-4-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-4-(hydroxycarbonyl)-butylamino]-7-(2,5-dihydropyrrol-1-yl-carbonyl)-quinazoline
Prepared analogously to Example 8c from 6-chloro-4-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-4-(tert.-butyloxycarbonyl)-butylamino]-7-(2,5-dihydropyrrol-1-yl-carbonyl)-quinazoline and trifluoroacetic acid in dichloromethane.

reactant | 6-chloro-4-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-4-(tert.-butyloxycarbonyl)-butylamino]-7-(2,5-dihydropyrrol-1-yl-carbonyl)-quinazoline | ClC=1C=C2C(=NC=NC2=CC1C(=O)N1CC=CC1)N[C@@H](CCCC(=O)OC(C)(C)C)C1=NC2=C(N1)C=CC(=C2)Cl | C29H30Cl2N6O3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6-chloro-4-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-4-(hydroxycarbonyl)-butylamino]-7-(2,5-dihydropyrrol-1-yl-carbonyl)-quinazoline | ClC=1C=C2C(=NC=NC2=CC1C(=O)N1CC=CC1)N[C@@H](CCCC(=O)O)C1=NC2=C(N1)C=CC(=C2)Cl | C25H22Cl2N6O3
